US04906621
A solution of 28.6 g of 4-(tert-butyl-dimethylsilyloxyethyl)-pyridine-N-oxide, 60.3 ml of trimethylsilyl cyanide and 31.5 ml triethylamine is stirred under nitrogen at reflux for 3 hours. The dark solution is cooled in an ice bath, 30 ml of ethanol added, followed by 400 ml ethyl acetate and 200 ml hexane. The solution is washed twice with 150 ml of water, dried over sodium sulfate, filtered, concentrated in vacuo and purified by flash chromatography using ethyl acetate/hexane (1:10) to yield 4-(tert-butyl-dimethylsilyloxyethyl)-2-cyanopyridine.

reactant | 4-(tert-butyl-dimethylsilyloxyethyl)-pyridine-N-oxide | 28.6 g | [Si](C)(C)(C(C)(C)C)OCCC1=CC=[N+](C=C1)[O-] | C13H23NO2Si
reactant | trimethylsilyl cyanide | 60.3 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | triethylamine | 31.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | hexane | 200 ml | CCCCCC | C6H14
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 4-(tert-butyl-dimethylsilyloxyethyl)-2-cyanopyridine | [Si](C)(C)(C(C)(C)C)OCCC1=CC(=NC=C1)C#N | C14H22N2OSi
